US07935724B2
5-(4-Carboxy-phenyl)-thiophene-2-carboxylic acid ethyl ester
Ethyl 5-bromothiophene-2-carboxylate (318 mg, 1.35 mmol) and 4-carboxyphenyl boronic acid (203 mg, 1.23 mmol) were suspended in 1 mL of water under nitrogen atmosphere. Tetrabutylammonium bromide (403 mg, 1.25 mmol), palladium acetate (2 mg, 0.009 mmol) and potassium carbonate (422 mg, 3.05 mmol) were added and the mixture stirred at 70° C. for 1 h. The solution was brought to pH 2 by addition of 1M HCl and the product extracted into 10% MeOH in EtOAc. The organic phase was dried and the solvent was removed. The solid was tritured with ethyl acetate, leaving a solid product. 1H-NMR (CDCl3): δ=7.99 (d, J=8.6 Hz, 2H), 7.88 (d, J=8.6 Hz, 2H), 7.83 (d, J=4 Hz, 1H), 7.49 (d, J=4 Hz, 1H), 4.31 (q, J=7.4 Hz, 2H), 1.31 (t, J=7.4 Hz, 3H). MS (EI): cal'd 277 (MH+), exp 277 (MH+).

reactant | Ethyl 5-bromothiophene-2-carboxylate | 1.35 mmol, 318 mg | BrC1=CC=C(S1)C(=O)OCC | C7H7BrO2S
reactant | 4-carboxyphenyl boronic acid | 1.23 mmol, 203 mg | C(=O)(O)C1=CC=C(C=C1)B(O)O | C7H7BO4
reactant | potassium carbonate | 3.05 mmol, 422 mg | C([O-])([O-])=O.[K+].[K+]
reactant | HCl | 1M | Cl | ClH
solvent | water | 1 mL | O | H2O
catalyst | Tetrabutylammonium bromide | 1.25 mmol, 403 mg | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
catalyst | palladium acetate | 0.009 mmol, 2 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 5-(4-Carboxy-phenyl)-thiophene-2-carboxylic acid ethyl ester | C(C)OC(=O)C=1SC(=CC1)C1=CC=C(C=C1)C(=O)O | C14H12O4S
